US05036107
1-Cyclohexyl-1-hydroxy-1-phenyl-7-diethylaminohept-5-yn-2-one
Also prepared by the general method described in Example 6 utilizing phenyl cyclobutyl ketone, phenyl isopropyl ketone, phenyl methyl ketone and phenyl isobutyl ketone with the appropriate secondary amine were 1-cyclobutyl-1-hydroxy-1-phenyl-7-dimethylaminohept-5-yn-2-one, 1-cyclobutyl-1-hydroxy-1-phenyl-7-(N-ethyl-N-methylamino)hept-5-yn-2-one, 3-hydroxy-2-methyl-3-phenyl-9-dimethylaminonon-7-yn-4-one, 1-(1-methylcyclopropyl)-1-hydroxy-1-phenyl-7-dimethylaminohept-5-yn-2-one, and 4-hydroxy-2-methyl-4-phenyl-10-dimethylaminodec-8-yn-5-one.

reactant | phenyl cyclobutyl ketone | C1(CCC1)C(=O)C1=CC=CC=C1 | C11H12O
reactant | phenyl isopropyl ketone | C(C)(C)C(=O)C1=CC=CC=C1 | C10H12O
reactant | phenyl methyl ketone | CC(=O)C1=CC=CC=C1 | C8H8O
reactant | phenyl isobutyl ketone | C(C(C)C)C(=O)C1=CC=CC=C1 | C11H14O
reactant | 1-cyclobutyl-1-hydroxy-1-phenyl-7-dimethylaminohept-5-yn-2-one | C1(CCC1)C(C(CCC#CCN(C)C)=O)(C1=CC=CC=C1)O | C19H25NO2
reactant | 1-cyclobutyl-1-hydroxy-1-phenyl-7-(N-ethyl-N-methylamino)hept-5-yn-2-one | C1(CCC1)C(C(CCC#CCN(C)CC)=O)(C1=CC=CC=C1)O | C20H27NO2
reactant | 3-hydroxy-2-methyl-3-phenyl-9-dimethylaminonon-7-yn-4-one | OC(C(C)C)(C(CCC#CCN(C)C)=O)C1=CC=CC=C1 | C18H25NO2
reactant | 1-(1-methylcyclopropyl)-1-hydroxy-1-phenyl-7-dimethylaminohept-5-yn-2-one | CC1(CC1)C(C(CCC#CCN(C)C)=O)(C1=CC=CC=C1)O | C19H25NO2
reactant | 4-hydroxy-2-methyl-4-phenyl-10-dimethylaminodec-8-yn-5-one | OC(CC(C)C)(C(CCC#CCN(C)C)=O)C1=CC=CC=C1 | C19H27NO2
product | 1-Cyclohexyl-1-hydroxy-1-phenyl-7-diethylaminohept-5-yn-2-one | C1(CCCCC1)C(C(CCC#CCN(CC)CC)=O)(C1=CC=CC=C1)O | C23H33NO2
